US05134231
Methyl acetoacetate sodium salt (1.24 g; 9 mmole) prepared from methyl acetoacetate and sodium methoxide was suspended in dry toluene (10 ml), and a solution of ethyl 2-chloroformylpropanoate (1.12 g; 6.8 mmole) in dry toluene (5 ml) was dropwise added thereto at room temperature. The resultant mixture was stirred at the same temperature for 1 hour, and insoluble materials were removed by filtration. The filtrate was concentrated at 40° C. under reduced pressure, and the residue was purified by silica gel column chromatography to give ethyl 3,5-dioxo-4-methoxycarbonyl-2-methylhexanoate.

reactant | Methyl acetoacetate sodium salt | 9 mmole, 1.24 g | [Na].C(CC(=O)C)(=O)OC
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethyl 2-chloroformylpropanoate | 6.8 mmole, 1.12 g | ClC(=O)C(C(=O)OCC)C | C6H9ClO3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3,5-dioxo-4-methoxycarbonyl-2-methylhexanoate | O=C(C(C(=O)OCC)C)C(C(C)=O)C(=O)OC | C11H16O6
